US06329370B1
3-(3,5-Dichloro-pyridin-4-ylmethylene)-6-methoxy-1-thiazol-2-yl-1,3-dihydro-isobenzofuran-1-ol
A milky solution of 2-bromothiazole (5.6 g, 34.2 mmoles) in dry ethyl ether (17 ml) was added dropwise to a solution of n-butyl lithium (14.4 ml, 36 mmoles) in dry ethyl ether (50 ml), under N2 at −80° C. The reaction mixture was stirred at −80° C. for 15 minutes, then a solution of 3-(3,5-dichloro-pyridin-4-ylmethylene)-6-methoxy-3H-isobenzofuran-1-one (10 g, 31 mmoles), prepared as described in example 37, in dry THF (60 ml) was slowly added. After 45 minutes at −78° C., the resultant solution was treated with saturated NH4Cl, with water and brought to room temperature. The aqueous phase was separated and extracted with ethyl acetate, decoloured with charcoal, filtered over celite and concentrated under vacuum. The resultant foam was flash cromatographed (eluent petrolatum:ethyl acetate 6:4) obtaining 4.64 g of the title compound (yield: 38%).

reactant | 2-bromothiazole | 34.2 mmoles, 5.6 g | BrC=1SC=CN1 | C3H2BrNS
reactant | n-butyl lithium | 36 mmoles, 14.4 ml | C(CCC)[Li]
reactant | 3-(3,5-dichloro-pyridin-4-ylmethylene)-6-methoxy-3H-isobenzofuran-1-one | 31 mmoles, 10 g | ClC=1C=NC=C(C1C=C1OC(C2=CC(=CC=C12)OC)=O)Cl | C15H9Cl2NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ethyl ether | 17 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-(3,5-Dichloro-pyridin-4-ylmethylene)-6-methoxy-1-thiazol-2-yl-1,3-dihydro-isobenzofuran-1-ol | 4.64 g, yield: 38% | ClC=1C=NC=C(C1C=C1OC(C2=CC(=CC=C12)OC)(O)C=1SC=CN1)Cl | C18H12Cl2N2O3S
